US04657899
Ethyl 5-[2-(diethylphosphonomethyl)phenyl]-2-acetamido-2-carboethoxypentanoate
To 0.48 g (21 mmol) of sodium in 50 mL of dry ethanol was added 4.56 g (21 mmol) of solid diethyl acetamidomalonate portionwise. This solution was stirred at reflux under nitrogen for 2 h. After cooling to room temperature the solvent was removed under reduced pressure yielding a tan solid. This solid was dried under vacuum about 2 h. The sodium salt of diethyl acetamidomalonate was then suspended in 50 mL of dry toluene and 9.0 g (21 mmol) of diethyl 2-(3-bromopropyl)benzylphosphonate in 25 mL of dry toluene was added dropwise. This solution was stirred at reflux under nitrogen for 20 h. After cooling to room temperature the solid which precipitated was removed by filtration and washed with toluene. The combined toluene solutions were concentrated under reduced pressure to yield a dark oil. This oil was chromatographed on a column of silica gel with ethyl acetate as eluant. The combined fractions were concentrated under reduced pressure yielding 4.2 g (42%) of the product as a yellow viscous oil which solidified upon standing, mp 76°-79° C. IR(neat) 1745.9, 1680 cm-1 (C=O). 1H NMR(CDCl3) δ 1.0-1.4 (m, 12H); 2.0 (s, 3H); 2.2-3.3 (m, 6H); 3.7-4.4 (m, 8H); 6.8 (5, 1H); 7.0-7.3 (m, 4H). Anal. Calcd. for C23H36NO8P: C, 56.90; H, 7.48; N, 2.89. Found: C, 56.27; H, 7.51; N, 2.86.

reactant | sodium | 21 mmol, 0.48 g | [Na] | Na
reactant | diethyl acetamidomalonate | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | diethyl 2-(3-bromopropyl)benzylphosphonate | 21 mmol, 9.0 g | BrCCCC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C14H22BrO3P
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-[2-(diethylphosphonomethyl)phenyl]-2-acetamido-2-carboethoxypentanoate | 4.2 g, 42% | C(C)OP(=O)(OCC)CC1=C(C=CC=C1)CCCC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C23H36NO8P
